US05413915
Detection of Benzo(a)pyrene
Two spots were prepared by manual streaking on a glass plate. The bottom layer of each spot consisted of 0.15 mL of a 4 mg/mL porcine 300 Bloom gelatin solution containing 1.2 mg/mL pararosaniline (PRA) reduced with solid sodium metabisulfite, spread over an area of 1100-1500 mm2. After drying in air for two hours, the second layer, containing the following materials, was deposited. 0.05 mL of fresh rat liver microsomes containing approximately 62 mg/mL protein was added to 0.30 mL of a sodium phosphate buffer solution (pH=7.4) containing 4 mg/mL porcine 300 Bloom gelatin, and admixed with 0.02 mL of a solution containing 3 mM MgCl2, 50 mM tris(hydroxymethyl-)aminomethane buffer (pH=7.4) and 15 mM KCl. To this solution was added 10.5 mg solid reduced nicotinamide adenine dinucleotide phosphate (NADPH). 0.25 mL of this material was deposited over an area of 1300-1700 mm2, completely covering the bottom layer, and was air dried for two hours. Subsequently, 0.05 mL of a 0.5 mg/mL solution of benzo(a)pyrene was applied to one of the spots. Within less than five minutes, violet color began to appear, and was well developed within twenty minutes. The untreated spot, to which no benzo(a)pyrene had been added, remained transparent and clear, with no apparent violet color.

reactant | pararosaniline | C1=CC(=CC=C1C(=C2C=CC(=N)C=C2)C=3C=CC(=CC3)N)N | C19H17N3
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | Benzo(a)pyrene | C1=CC=C2C=CC=3C=C4C(=C5C=CC1=C2C53)C=CC=C4 | C20H12
